US07402595B2
N-[[4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonyl]-2,2,2-trifluoroacetamide
The present compound was synthesized by a method similar to that in Example 515 and using trifluoroacetic anhydride and 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide. 1H NMR (DMSO-d6) δ: 0.37 (3H, t, J=6.9 Hz), 1.79 (2H, q, J=6.9 Hz), 5.21 (2H, s), 7.21 (2H, d, J=8.4 Hz), 7.26 (1H, d, J=1.8 Hz), 7.28-7.38 (2H, m), 7.44-7.58 (3H, m), 7.70 (2H, d, J=8.4 Hz), 7.81 (1H, dd, J=1.8, 8.7 Hz), 8.30 (1H, d, J=8.7 Hz). HPLC analysis: purity 85.5% (retention time: 4.72 min). MS (ESI+): 621 (M+H), 623.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(6-bromo-1-oxo-4-phenyl-3-propionyl-1H-isoquinolin-2-ylmethyl)benzenesulfonamide | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)N)C(CC)=O)C1=CC=CC=C1 | C25H21BrN2O4S
product | N-[[4-[(6-bromo-1-oxo-4-phenyl-3-propionyl-2(1H)-isoquinolinyl)methyl]phenyl]sulfonyl]-2,2,2-trifluoroacetamide | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)NC(C(F)(F)F)=O)C(CC)=O)C1=CC=CC=C1 | C27H20BrF3N2O5S
